US04021479
4-(2'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to example 25 from 4-(2'-chloro-4-biphenylyl)-4-oxo-butyric acid. Yield: 55% of theory. Melting point of the cyclohexylamine salt: 157°-158° C. (from water); melting point of the isobutylamine salt: 131°-133° C. (from isopropanol); the sodium salt has a double melting point of 90°-95° C. and 130°-133° C. (from ethanol).

reactant | 4-(2'-chloro-4-biphenylyl)-4-oxo-butyric acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 4-(2'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 55% | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15ClO3
